US07453010B2
4.1: trans-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetic acid
A mixture of 0.36 g of ethyl trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate (0.49 mmol) and of 6 ml of a molar aqueous sodium hydroxide solution in ethanol (10 ml) is heated at 45° C. for 22 h. The solvents are subsequently evaporated under reduced pressure and water is added. A molar aqueous hydrochloric acid solution is subsequently added to pH=1. The title product is obtained in the form of a white solid (0.3 g, 89%) after filtration and drying under vacuum. {M+H+]=689.7

reactant | ethyl trans-(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetate | 0.49 mmol, 0.36 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)OCC)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C40H48N2O8S
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | trans-(4-{4-[Benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}phenoxy)acetic acid | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(OCC(=O)O)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C38H44N2O8S
